US05061398
To a solution of 1.6 g of aluminium chloride and 2 ml of ethanethiol in 15 ml of dichloromethane was added, at 0° C, a solution of 440 mg of (2R,4R)-2-(4-methoxyphenyl)-4-decanolide dissolved in 5 ml of dichloromethane. This mixture was stirred for 4 hours. A saturated sodium bicarbonate aq. solution was then added, and the resulting mixture was subjected to extraction with dichloromethane, followed by column chromatography (Kieselgel 60, hexane/ethyl acetate = 3/1), thereby obtaining 374 mg (yield 90%) of (2R,4R)-2-(4-hydroxyphenyl)-4-decanolide. Identification data for this product are as follows. Melting point 87-88° C. [α]D20 +3.2° (c=1.27, MeOH).

reactant | aluminium chloride | 1.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethanethiol | 2 ml | C(C)S | C2H6S
reactant | (2R,4R)-2-(4-methoxyphenyl)-4-decanolide | 440 mg | COC1=CC=C(C=C1)[C@@H]1C(=O)O[C@@H](C1)CCCCCC | C17H24O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (2R,4R)-2-(4-hydroxyphenyl)-4-decanolide | 374 mg, yield 90% | OC1=CC=C(C=C1)[C@@H]1C(=O)O[C@@H](C1)CCCCCC | C16H22O3
